US07902238B2
To a stirred solution of (R)-4-[(ethyl-phenyl-amino)-methyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (608 mg) at r.t. in dioxane (5.5 ml) under an argon atmosphere was added HCl solution (4 M in dioxane; 4.54 ml). The mixture was stirred at r.t. overnight and concentrated. The residue was taken up in EtOAc and washed with 1N NaOH. The aqueous layer was back extracted with EtOAc. The combined organics were washed with brine, dried over MgSO4 and concentrated. The crude product was purified by column chromatography (Isolute® SPE flash NH2 column, aminopropyl-functionalized silica; CH2Cl2/MeOH 9:1) to give (R)-2-amino-3-(ethyl-phenyl-amino)-propan-1-ol (297 mg, 84%) as off-white amorphous solid. MS (ISP): 195.3 ([M+H]+)

reactant | (R)-4-[(ethyl-phenyl-amino)-methyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 608 mg | C(C)(C)(C)OC(=O)N1C(OC[C@H]1CN(C1=CC=CC=C1)CC)(C)C | C19H30N2O3
reactant | HCl | 4 M, 4.54 ml | Cl | ClH
solvent | dioxane | 5.5 ml | O1CCOCC1 | C4H8O2
product | (R)-2-amino-3-(ethyl-phenyl-amino)-propan-1-ol | 297 mg, 84% | N[C@@H](CO)CN(C1=CC=CC=C1)CC | C11H18N2O
